US07067517B2
4-(Methyl-phenethyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and methyl-phenethyl-piperidin-4-yl-amine, hydrochloride, praeparative HPLC (Method C) (37%, colourless oil). HPLC-MS m/z=500.1 (M+1), Rt: 3.26 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | methyl-phenethyl-piperidin-4-yl-amine, hydrochloride | Cl.CN(C1CCNCC1)CCC1=CC=CC=C1
product | 4-(Methyl-phenethyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N(CCC1=CC=CC=C1)C)(F)F | C27H28F3N3O3
